US08487108B2
A solution of crude (R)-tert-butyl 3-((R)-(2-(tert-butyldimethylsilyloxy)ethoxy)(3-chlorophenyl)methyl)piperidine-1-carboxylate in CH3CN (100 mL) and 2 N aq HCl (100 mL) was vigorously stirred at rt for 2 d. The solvents were removed in vacuo to give the HCl salt of 2-((R)-(3-chlorophenyl)((R)-piperidin-3-yl)methoxy)ethanol, which was used in the next step without further purification. LC-MS (3 min) tR=1.05 min m/z 272, 270 (M+H)+.

reactant | (R)-tert-butyl 3-((R)-(2-(tert-butyldimethylsilyloxy)ethoxy)(3-chlorophenyl)methyl)piperidine-1-carboxylate | [Si](C)(C)(C(C)(C)C)OCCO[C@H]([C@H]1CN(CCC1)C(=O)OC(C)(C)C)C1=CC(=CC=C1)Cl | C25H42ClNO4Si
solvent | CH3CN | 100 mL | CC#N | C2H3N
solvent | HCl | 2 N, 100 mL | Cl | ClH
product | 2-((R)-(3-chlorophenyl)((R)-piperidin-3-yl)methoxy)ethanol | ClC=1C=C(C=CC1)[C@H](OCCO)[C@H]1CNCCC1 | C14H20ClNO2
